US05959037
(Synthesis of 4-acetoxybutyl acrylate)
144.7 g of 4-hydroxybutyl acrylate and 118.7 g of pyridine were charged into a separable flask having a capacity of 1 liter, provided with a stirrer, a Jean-stark water separator, a cooling tube and a nitrogen gas inlet tube, and then 127.8 g of acetic anhydride was dropwise added thereto at 5° C. with stirring over 2 hours, while replacing the flask inside atomosphere with a nitrogen gas. After the dropwise addition, stirring was continued for one hour to conduct reaction. After completion of the reaction, the reaction mixture was recovered by filtration, washed successively with 0.5N hydrochloric acid, an aqueous 2.5% NaHCO3 solution and water, and dehydrated over sodium sulfate. Then pyridine was distilled off under reduced pressure, whereby 142 g of a product of the following chemical formula was obtained:

reactant | 4-hydroxybutyl acrylate | 144.7 g | C(C=C)(=O)OCCCCO | C7H12O3
reactant | pyridine | 118.7 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 127.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-acetoxybutyl acrylate | C(C=C)(=O)OCCCCOC(C)=O | C9H14O4
